US04534898
(1) Preparation of (3R,4R)-4-{(1R)-1-ethoxycarbonylethoxy}-3-benzamido-1-(1-diphenylmethoxycarbonyl-2-methylprop-1-enyl)-azetidin-2-one
10 Grams of (1R,5S)-3-phenyl-6-(1-diphenylmethoxycarbonyl-2-methylprop-1-enyl)-7-oxo-4-oxa-2,6-diazabicyclo[3,2,0]hept-2-ene as used in Example 9(1) was dissolved in 35 ml of L-(+)-lactic acid ethyl ester instead of the DL-α-lactic acid ethyl ester employed in Reference Example 1(1). To the resultant solution was added 0.5 ml of trifluoromethanesulfonic acid, and the mixture was stirred at ambient temperature for 1.5 hours. The reaction solution thus obtained was poured into 200 ml of aqueous sodium bicarbonate and allowed to stand under ice-cooling for 30 minutes.

reactant | (1R,5S)-3-phenyl-6-(1-diphenylmethoxycarbonyl-2-methylprop-1-enyl)-7-oxo-4-oxa-2,6-diazabicyclo[3,2,0]hept-2-ene | C1(=CC=CC=C1)C1=N[C@H]2C(N([C@H]2O1)C(=C(C)C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H24N2O4
reactant | trifluoromethanesulfonic acid | 0.5 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
reactant | L-(+)-lactic acid ethyl ester | 35 ml | C(C)OC([C@@H](O)C)=O | C5H10O3
product | (3R,4R)-4-{(1R)-1-ethoxycarbonylethoxy}-3-benzamido-1-(1-diphenylmethoxycarbonyl-2-methylprop-1-enyl)-azetidin-2-one | C(C)OC(=O)[C@@H](C)O[C@@H]1[C@H](C(N1C(=C(C)C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(C1=CC=CC=C1)=O | C33H34N2O7
